Name:  ___       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I got in an argument with my parents."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female, without
past formal psychiatric history, and past medical history of
somatic complaints, eczema, asthma, and anemia, who was BIBA
after a suicide attempt via ingestion. Psychiatry was consulted
for safety. 

Patient reported an argument with her parents regarding laundry
detergent just prior to the inciting event. Patient had asked 
her
mother to hide patient's detergent so her family did not use it.
Patient reported her mother thought she was being "Rude,"
including not saying please. As patient was leaving the room, 
her
mother pushed her, which patient described as her mother using
her own shoulder to hit patient's, causing patient to hit her
head on the door. Patient reported her mother did not
intentionally mean to do this, and her mother then instructed 
her
to take a motrin. Patients' father then came into the room, as 
he
was concerned patient pushed her mother. Patient's father 
quickly
left the argument. Patient's older brother then got involved and
was yelling at patient, along with patient's mother. Patient
reported her brother is typically away, and thus, she found his
involvement very distressing.

Patient then went to the bathroom. Patient reported she was
initially not taking pills at to hurt herself, but for headache
and sleep. Patient noted several days of insomnia w/o fatigue 
and
irritability. Patient then took ibuprofen x2 and benadryl x1.
Patient's brother continued to argue with her through the door,
and she found this very upsetting. 

Patient then went to her room. Patient then pushed her dresser 
in
front of her door. Patient reported feeling very angry, 
resulting
in her destructing her room, like cutting up basketball shorts
from her brother. Patient noted that in the past she would go
outside the room and destroy the house when feeling this angry.
Patient noted she tried calling multiple friends (x7-8 times),
but could not reach them. Patient felt increasingly angry.
Patient then obtained her pill bag, and took benadryl x8, 
unknown
amount of seasonal allergy pills, and one unknown pill (friend's
ADHD pill). Patient noted her friend had left them at her house
for herself when she visited, as she was frequently at the 
house.
Patient reported the ingestion was an attempt to end her life.
Patient denied recent suicidal thoughts, but endorsed a history
of suicidal thoughts, last ___. On ED interview,
patient denied suicidal thoughts, plans, and actions. Patient
expressed regret about ingestion. Patient demonstrated little
insight into how the inciting events or her symptoms (such as
anger and irritability) led to the inciting events.

Patient noted recent insomnia, without sleep ___, 
or
___. Patient noted she has had high energy, hyperactivity,
irritability, and anger. Patient denied other symptoms of mania.
Patient denied symptoms of psychosis. Patient noted a history of
periods of insomnia with normal energy, which became more
pronounced this past ___. Patient was uncertain of the
most recent period of insomnia and high energy. Patient noted
past depressive symptoms, and related them to thoughts, and was
unable to recall the last period in which she felt depressed.
Patient denied symptoms of psychosis. 

Patient endorsed past suicidal thoughts, most recently as
___ i/s/o feeling overwhelmed from stressors (lost all
3 jobs at same time, forgot to enroll in school, mother with
heart surgery, and negative self thoughts). Patient reported her
jobs caused her family to earn certain assistance (like food
stamps). 

Patient noted longstanding stressors, including unemployment or
education. Patient noted her mother recently did not support 
her,
even for little things such as transport money.

Patient endorsed recent cannabis use, q3 days, most recent use 1
week ago, and reported that she currently plans to abstain due 
to
upcoming job interview. Patient denied other substance abuse.

 
Past Medical History:
Seasonal allergies
Asthma
Eczema
Anemia
Chronic body aches, w/ multiple past workups by her PCP
currently taking PRN Ibuprofen 
Denied history of head injury or seizure

 
Social History:
Currently, unemployed, last worked in ___. Patient
reported that she was working 3 jobs at the end of ___, and 
felt
very overworked. She was then in an accident in which her foot
was ran over, and subsequently she had difficulty returning to
work. She did not appropriately communicate with her employers
and subsequently was terminated. Since this time patient has had
significant difficulties obtaining employment and has struggled
with this. Patient has the goal to return to school at some
point, and a mentor has been encouraging her to do this. Patient
noted that last week she was set to enroll in school; however,
her mother refused to pay her transportation. Patient noted her
mother not supportive. Currently, patient lives with her 2
brothers (1 older and ___ younger). Patient's older brother is
temporarily back from playing ___ basketball. Patient
reported that there is longstanding fighting in the family
between siblings, including physical fighting. Patient denied
physical fights with her family. Patient identified her younger
brother as her closest support. Patient also identified her
sister as a support person. 

 
Family History:
-2 brothers w/ ADHD
-Sister- suicide attempt while in jail as a minor
-Denied other known psychiatric illness, completed suicides,
suicide attempts, and addiction.
 
Physical Exam:
Admission exam:

Medical ROS: Positive for pain (diffuse aches, chronic). 10 
point
review of systems was conducted and otherwise negative.

Vital Signs: 
T 98.0 F, BP 107/50, HR 76, RR 16, SaO2 100% on RA 

Neurological:  
Tone, gait wnl. Strength grossly normal throughout. No tremor
noted.

MENTAL STATUS EXAM:
Arousal: Alert, attentive
Appearance: NAD. Appears disheveled, w/ poor hygiene and 
grooming, dressed in hospital down, lying in bed 
Behavior: Cooperative, subtle PMA
Speech: Spontaneous. Slightly increased rate. Normal volume, 
tone, and prosody.
Mood: "Okay."
Affect: Anxious, slightly labile, appropriate
Thought process/associations: Circumstantial. No loosening of 
associations and did not appear to be responding to internal 
stimuli.
Thought content: Focused on family conflict and job loss. Denied 
suicidal thoughts, plans, and actions; however, patient reported 
that the ingestion was a suicide attempt. Denied HI. Denied 
auditory and visual hallucinations.
Insight/Judgment: Poor/ poor

Cognitive exam:  
--Orientation: Oriented to person, place, time and situation
--Attention: Able to name the months of the year backwards,
somewhat inattentive during the interview, easily distracted by
the ED
--Memory: ___ registration, ___ recall, long-term: grossly 
intact
--Calculations: 6 quarters in $1.50
--Fund of knowledge: adequate; intact to last ___ presidents
--Similarities: abstract 
--Proverbs: correct interpretation
--Language: ___ speaker

Discharge Exam:
Vitals: T: 97.6, BP: 94/58, HR: 73, RR: 16, O2: 100% on RA

Mental Status Exam: 
Appearance: ___ female with a lower lip piercing, 
fairly groomed, wearing casual clothes, and appears stated age 
Behavior: Calm, cooperative, engaged, friendly, pleasant, 
appropriate eye contact. No psychomotor agitation or 
retardation.
Speech: normal rate, volume and prosody
Mood and Affect: "I'm good" / affect congruent with mood, 
euthymic, bright, calm, full range
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: Denies SI, no reported HI/AH/VH, no evidence of 
delusions or paranoia
Judgment and Insight: fair/fair

Neurological: 
Station and gait: WNL
Tone and strength: Grossly intact
Abnormal movements: None noted

Cognition: 
Wakefulness/alertness: Awake and alert
Attention: Intact to interview
Orientation: Oriented to self and situation
Memory: Intact to recent and past history
Fund of knowledge: consistent with education 
Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation.

 
Pertinent Results:
___ 
URINE Color-Yellow Appear-Clear Sp ___
URINE Blood-NEG Nitrite-NEG Protein-TR Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-1

___
COMPLETE BLOOD COUNT 
White Blood Cells 5.7 K/uL 
Red Blood Cells 4.78 m/uL 
Hemoglobin 12.7 g/dL 
Hematocrit 38.6% W 
MCV 81* fL 
MCH 26.6 pg 
MCHC 32.9 g/dL 
RDW 13.0% 
RDW-SD 37.8 fL  

DIFFERENTIAL 
Neutrophils 55% 
Bands 0% 
Lymphocytes 39% 
Monocytes 3*% 
Eosinophils 3% 
Basophils 0% 
Atypical Lymphocytes 0% 
Metamyelocytes 0% 
Myelocytes 0% 
Absolute Neutrophil Count 3.14 K/uL 
Absolute Lymphocyte Count 2.22 K/uL 
Absolute Monocyte Count 0.17* K/uL 
Absolute Eosinophil Count 0.17 K/uL 
Absolute Basophil Count 0.00* K/uL 
RED CELL MORPHOLOGY 
Hypochromia NORMAL    
Anisocytosis NORMAL  
Poikilocytosis NORMAL     
Macrocytes NORMAL    
Microcytes NORMAL     
Polychromasia NORMAL     
BASIC COAGULATION ___, PTT, PLT, INR) 
Platelet Smear NORMAL
Platelet Count 205 K/uL 

RENAL & GLUCOSEGlucoseUreaNCreatNa K Cl HCO3AnGap
___                         72    6          0.7      
 1393.7105    24    14

ENZYMES & BILIRUBINALTASTAlkPhos  TotBilli
___  0.4 
CHEMISTRYTotProtAlbuminGlobulnCalciumPhosMgUricAcdIron
___ 19:30   4.3 10.02.4*2.3*  
TOXICOLOGY, SERUM AND OTHER DRUGS - Negative

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and signed a three-day notice on 
___ which expired on ___. She was placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. There were 
no acute behavioral concerns, and no need for chemical/physical 
restraints.

2. PSYCHIATRIC:
#) Ms. ___ presented to the ED on ___ after an 
impulsive suicide attempt via ingestion of Ibuprofen, Benadryl, 
and Adderall following a family dispute, and was admitted to the 
inpatient psychiatry unit on ___. The patient reported 
longstanding emotional lability, impulsivity, and aggression, 
with a history of violent behavior.  She stated that she has 
difficulty controlling her anger. She also said that since the 
age of ___, after multiple difficult stressors, she has had 
trouble sleeping, both with initiating and maintaining sleep, as 
well as getting up out of bed in the morning. Since this time 
she has also had intermittent SI when she would become angry. In 
addition, she reported a decreased appetite stating that one 
meal a day was often sufficient for her. 

The patient was initially was not in agreement with 
hospitalization, and was in the emergency room for 4 days 
awaiting bed placement. However upon arriving on the unit she 
was friendly and cooperative with the treatment team and was 
open to trying a medication. She was started on Depakote 500 mg 
BID on ___ for mood lability and anger, and has remained 
medication compliant throughout her stay. The patient reported 
improvement in her sleep (normally 5 hours), getting up to 8 
hours, after initiating Depakote. She denied any other side 
effects except for slightly decreased energy. She also noticed 
that she is not as preoccupied with worrying about the future, 
like finding a new job or thinking of how she will pay for books 
for school. After the initiation of treatment, the patient 
reported that she is able to respond more reasonably when 
angered and not react as strongly. For example, during an 
argument over the phone with her mother she said that although 
irritated, instead of yelling at her mother as she normally 
does, she was able to hang up the phone. In another instance, 
when an unstable patient threw food that landed on the patient, 
she said that instead of reacting impulsively and throwing food 
back, she could reason that the patient was unwell and was able 
to calm down more quickly. She denied that this or any other 
upsetting incidents have led to suicidal ideation. 

Diagnosis appears most consistent with bipolar disorder given 
history notable for decreased sleep, decreased appetite, 
impulsivity, lability, and irritability. However, her most 
prominent symptoms are of aggression, with history of violent 
behavior, and thus would also consider ddx of intermittent 
explosive disorder, ODD,
or another Disruptive, Impulse-Control, and Conduct Disorder. 

Ms. ___ has expressed that she is looking forward to 
discharge and was proactive in scheduling appointments with both 
her PCP and therapist. She is future oriented and excited about 
a trip to ___ with her mentor and afterwards starting an 
outpatient day program. She has reported that she understands 
the importance of continuing to take her medication and follow 
up with her outpatient providers. She also voiced understanding 
that if she were to feel unsafe or develop SI, to reach out to 
her outpatient providers and/or to return to the emergency room. 
She was in agreement with attending a partial hospitalization 
program, however she is unable to at this time due to lack of 
insurance. This would likely be of benefit to patient in the 
future.

3. SUBSTANCE USE DISORDERS:
#) Cannabis-Use Disorder: 
Patient was counseled on substance use cessation in the context 
of a likely mood disorder. She also was encouraged to attend 
addiction recovery groups on the unit.

4. MEDICAL
#) Constipation: 
Patient reported longstanding history of constipation with at 
times having no BM x weeks. She was placed on an increased bowel 
regimen after no BM x6 days (Senna BID , Docusate Sodium BID, 
Milk of Magnesia PRN, Miralax PRN), after which patient reported 
having bowel movements.

Patient was also continued on home medications for asthma 
(albuterol inhaler PRN) and eczema (hydrocerin PRN, and 
hydrocortisone PRN). 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Ms. ___ was visible in the 
milieu, friendly and socialized with other patients on the unit. 
The patient’s primary team met with her daily and various 
psychotherapeutic modalities were utilized during those times. 
She was consistently friendly, cooperative, and forthcoming 
during individual sessions.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
___ (mother): ___
___ (mentor): ___

The team was in touch with both the patient’s mother and mentor, 
discussed the circumstances leading to patient's admission and 
hospitalization course, and explained the aftercare plan. They 
vocalized support of her treatment and aftercare planning.

#) INTERVENTIONS
- Medications: Initiated Depakote ___ 500 mg BID 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Appointment with therapist ___ 
___ and PCP (Dr. ___ on day of discharge 
___ at 4:45pm. Patient was in agreement with attending a 
partial hospitalization program, however she is unable to at 
this time due to lack of insurance. This would likely be of 
benefit to patient in the future.
-Behavioral Interventions: encouraged DBT and CBT skills, other 
coping skills.
-Guardianships: N/A

INFORMED CONSENT: Depakote (Valproate).
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting this medication, 
and risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
The patient appeared able to understand and consented to begin 
the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her impulsive 
suicide attempt by overdose and violent history. Her static 
factors noted at that time include history of suicide attempt 
and history of substance abuse. The modifiable risk factors were 
also addressed at that time: 

Modifiable Risk Factors:
•suicidal ideation with plan – mitigated by treating patient 
with Depakote ___ 500 mg BID, group and individual therapy with 
coping skills
•lack of engagement with outpatient treatment – addressed by 
appointment with therapist and PCP
•limited social supports – mitigated by engaging mother and 
mentor in aftercare of patient and establishing outpatient 
providers
•limited coping skills – modified this by encouraging patient 
participation in various groups
•insomnia – mitigated by treating patient with Depakote ___ 500 
mg BID and patient reported sleep improvement 

Finally, the patient is being discharged with many protective 
risk factors. 
•help-seeking nature
•future-oriented viewpoint
•sense of responsibility to family
•good coping skills
•lack of suicidal ideation
•strong social supports

Based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others, and no longer meets ___ criteria. 
 
Medications on Admission:
Albuterol PRN
Hydrocortisone PRN
Epipen PRN
Benadryl PRN
Ibuprofen PRN
Nasal spray PRN seasonal allergies
Seasonal allergy pills
 
Discharge Medications:
1. Divalproex (DELayed Release) 500 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder, r/o other disruptive, impulse-control, and 
conduct Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health. 
 
Followup Instructions:
___